US04548818
Preparation of 3,7-dihydro-3-butyl-8-methyl-1H-purine-2,6-dione XXXXVII
A solution of 7.6 g of 1-butyl-5,6-diamino-2,4-(1H,3H)-pyrimidinedione in 20 ml of acetic acid was refluxed for 2 hours. The solution was evaporated. The residue was refluxed in 40 ml of 2N NaOH for 2 hours and then neutralized with 5N HCl. The crystals were filtered off and recrystallized from 350 ml ethanol. Yield 1.8 g (21%) (XXXXVII) NMR (see Table I).

reactant | 1-butyl-5,6-diamino-2,4-(1H,3H)-pyrimidinedione | 7.6 g | C(CCC)N1C(NC(C(=C1N)N)=O)=O | C8H14N4O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3,7-dihydro-3-butyl-8-methyl-1H-purine-2,6-dione | C(CCC)N1C(NC(C=2NC(=NC12)C)=O)=O | C10H14N4O2
